US07834063B2
4-({2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2-dimethylpropyl)amino]ethyl}oxy)benzenesulfonamide
Synthesized as described in Example 1C from 4-[(2,2-dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-hydroxybenzenesulfonamide: MS (APCI) m/z 454 (M−1).

reactant | 4-[(2,2-dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCO)(C)C | C15H19F3N2O
reactant | 4-hydroxybenzenesulfonamide | OC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO3S
product | 4-({2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2-dimethylpropyl)amino]ethyl}oxy)benzenesulfonamide | C(#N)C1=C(C=C(C=C1)N(CCOC1=CC=C(C=C1)S(=O)(=O)N)CC(C)(C)C)C(F)(F)F | C21H24F3N3O3S
